US08859773B2
Step 1: 7-bromo-1-methoxyisoquinoline
7-Bromo-1-chloroisoquinoline (570 mg, 2.4 mmol) was combined with methanol (10 mL) and sodium methoxide (25 wt % in methanol, 1.5 mL, 24 mmol) in a microwave vial. The vial was sealed and heated to 130° C. for 3 hours in a microwave. The reaction was concentrated. The crude residue was taken up in ethyl acetate and washed with water and saturated aqueous sodium bicarbonate. The aqueous layer was extracted two times with hot ethyl acetate. The combined organics were dried over sodium sulfate, filtered, and concentrated to give the title compound (520 mg, 93%). +ESI (M+H+1) 240.0; 1H NMR (400 MHz, DMSO-d6, δ): 8.25-8.28 (m, 1H), 8.04 (d, J=5.9 Hz, 1H), 7.86-7.89 (m, 2H), 7.40 (dd, J=6.0, 0.9 Hz, 1H), 4.03 (s, 3H).

reactant | 7-Bromo-1-chloroisoquinoline | 2.4 mmol, 570 mg | BrC1=CC=C2C=CN=C(C2=C1)Cl | C9H5BrClN
reactant | sodium methoxide | 24 mmol, 1.5 mL | C[O-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 7-bromo-1-methoxyisoquinoline | 520 mg, 93% | BrC1=CC=C2C=CN=C(C2=C1)OC | C10H8BrNO
